### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): dominant morphisms of schemes

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 1]
```diff
@@ -222,21 +222,35 @@ lemma topologically_respectsIso
...
     simp_rw [topologically, morphismRestrict_base]
-    exact hP₂ f.base U.carrier hf
+    exact hP₂ f.base U.carrier f.base.2 U.2 hf
   · intro X Y f ι U hU hf
     apply hP₃ f.base U hU f.base.continuous fun i ↦ ?_
     rw [← morphismRestrict_base]
     exact hf i
 
+/-- A variant of `topologically_isLocalAtTarget`
+that takes one iff statments instead of two implications. -/
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:241]:
```suggestion
that takes one iff statment instead of two implications. -/
```

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 2]
```diff
@@ -222,21 +222,35 @@ lemma topologically_respectsIso
 we may check the corresponding properties on topological spaces. -/
 lemma topologically_isLocalAtTarget
     [(topologically P).RespectsIso]
-    (hP₂ : ∀ {α β : Type u} [TopologicalSpace α] [TopologicalSpace β] (f : α → β) (s : Set β),
-      P f → P (s.restrictPreimage f))
+    (hP₂ : ∀ {α β : Type u} [TopologicalSpace α] [TopologicalSpace β] (f : α → β) (s : Set β)
+      (_ : Continuous f) (_ : IsOpen s), P f → P (s.restrictPreimage f))
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:226]: Thanks for fixing this, this annoyed me already a few times but I was too lazy to fix it.

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 3]
```diff
@@ -137,10 +131,47 @@ instance : (topologically ClosedEmbedding).RespectsIso :=
...
+  rw [dominant_iff, denseRange_iff_closure_range, ← Set.univ_subset_iff] at H ⊢
+  exact H.trans (closure_mono (Set.range_comp_subset_range f.base g.base))
+
+lemma Dominant.comp_iff [Dominant f] : Dominant (f ≫ g) ↔ Dominant g :=
+  ⟨fun _ ↦ of_comp f g, fun _ ↦ inferInstance⟩
+
+instance : MorphismProperty.RespectsIso @Dominant :=
+  MorphismProperty.respectsIso_of_isStableUnderComposition fun _ _ f (_ : IsIso f) ↦ inferInstance
+
+instance dominant_isLocalAtTarget : IsLocalAtTarget @Dominant :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:169]:
```suggestion
instance Dominant.isLocalAtTarget : IsLocalAtTarget @Dominant :=
``` 
we should agree on a convention and I think the tendency seems to be to put "standard properties" of a class of morphisms in an associated `<MorphismClass>.` namespace. So maybe put the whole section in `namespace Dominant`?

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 4]
```diff
@@ -137,10 +131,47 @@ instance : (topologically ClosedEmbedding).RespectsIso :=
...
-    (fun _ _ _ hU hfcont hf ↦ (closedEmbedding_iff_closedEmbedding_of_iSup_eq_top hU hfcont).mpr hf)
+  topologically_isLocalAtTarget' _ fun _ _ _ ↦ closedEmbedding_iff_closedEmbedding_of_iSup_eq_top
 
 end ClosedEmbedding
 
+section Dominant
+
+variable {X Y Z : Scheme.{u}} (f : X ⟶ Y) (g : Y ⟶ Z)
+
+/-- A morphism of schemes is dominant if the underlying map is. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:142]:
```suggestion
/-- A morphism of schemes is dominant if the underlying map has dense range. -/
```

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 5]
```diff
@@ -137,10 +131,47 @@ instance : (topologically ClosedEmbedding).RespectsIso :=
...
+
+lemma Dominant.comp_iff [Dominant f] : Dominant (f ≫ g) ↔ Dominant g :=
+  ⟨fun _ ↦ of_comp f g, fun _ ↦ inferInstance⟩
+
+instance : MorphismProperty.RespectsIso @Dominant :=
+  MorphismProperty.respectsIso_of_isStableUnderComposition fun _ _ f (_ : IsIso f) ↦ inferInstance
+
+instance dominant_isLocalAtTarget : IsLocalAtTarget @Dominant :=
+  have : MorphismProperty.RespectsIso (topologically DenseRange) :=
+    dominant_eq_topologically ▸ instRespectsIsoSchemeDominant
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:171]: I think it is safer to give the `RespectsIso` instance above a name and use it here.

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 6]
```diff
@@ -222,21 +222,35 @@ lemma topologically_respectsIso
...
     simp_rw [topologically, morphismRestrict_base]
-    exact hP₂ f.base U.carrier hf
+    exact hP₂ f.base U.carrier f.base.2 U.2 hf
   · intro X Y f ι U hU hf
     apply hP₃ f.base U hU f.base.continuous fun i ↦ ?_
     rw [← morphismRestrict_base]
     exact hf i
 
+/-- A variant of `topologically_isLocalAtTarget`
+that takes one iff statment instead of two implications. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:241]:
```suggestion
that takes one iff statement instead of two implications. -/
```

**Review by chrisflav — APPROVED** [review]
LGTM, thanks!

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 7]
```diff
@@ -137,10 +131,48 @@ instance : (topologically IsClosedEmbedding).RespectsIso :=
...
 
 end IsClosedEmbedding
 
+section Dominant
+
+variable {X Y Z : Scheme.{u}} (f : X ⟶ Y) (g : Y ⟶ Z)
+
+/-- A morphism of schemes is dominant if the underlying map has dense range. -/
+@[mk_iff]
+class Dominant : Prop where
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:145]: It seems we have a majority of `Is...` in the algebraic geometry API:
```suggestion
class IsDominant : Prop where
```

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 8]
```diff
@@ -137,10 +131,48 @@ instance : (topologically IsClosedEmbedding).RespectsIso :=
...
+    @Dominant = topologically DenseRange := by ext; exact dominant_iff _
+
+lemma Scheme.Hom.denseRange (f : X.Hom Y) [Dominant f] : DenseRange f.base :=
+  Dominant.denseRange
+
+instance (priority := 100) [Surjective f] : Dominant f := ⟨f.surjective.denseRange⟩
+
+instance [Dominant f] [Dominant g] : Dominant (f ≫ g) := ⟨g.denseRange.comp f.denseRange g.base.2⟩
+
+instance : MorphismProperty.IsStableUnderComposition @Dominant := ⟨fun _ _ _ _ ↦ inferInstance⟩
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:158]: Could you add that identities are dominant and get `IsMultiplicative` property?

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 9]
```diff
@@ -137,10 +131,51 @@ instance : (topologically IsClosedEmbedding).RespectsIso :=
...
+lemma dominant_eq_topologically :
+    @IsDominant = topologically DenseRange := by ext; exact isDominant_iff _
+
+lemma Scheme.Hom.denseRange (f : X.Hom Y) [IsDominant f] : DenseRange f.base :=
+  IsDominant.denseRange
+
+instance (priority := 100) [Surjective f] : IsDominant f := ⟨f.surjective.denseRange⟩
+
+instance [IsDominant f] [IsDominant g] : IsDominant (f ≫ g) :=
+⟨g.denseRange.comp f.denseRange g.base.2⟩
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:157]:
```suggestion
  ⟨g.denseRange.comp f.denseRange g.base.2⟩
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by erdOne** [comment]
bors merge
